US08664401B2
Step A) 1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1H-pyrazole
1-(4-bromophenyl)-1H-pyrazole (0.34 g, 1.5 mmol), bis(pinacolato)diborane (0.53 g, 2.1 mmol) and potassium acetate (446 mg, 4.5 mmol) were combined in a 4 dram vial in 10 mL dioxane. The reaction mixture was bubbled with nitrogen for 10 minutes then Pd(dppf)Cl2 (110 mg, 0.15 mmol) was added. The reaction was heated at 100° C. overnight. The reaction was diluted with 20 mL of EtOAc and 20 mL of 1:1 saturated sodium bicarbonate/water. The organic layer was isolated and the aqueous layer was back-extracted once with 10 mL of EtOAc. The organic layers were combined, dried over solid magnesium sulfate, filtered and concentrated. The crude material was purified by eluting the material through a short pad of silica gel with EtOAc to provide a dark solid (0.42 g, 100%). MS (LCMS) m/z 271.4 (M+1). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.35 (s, 12H) 6.46 (dd, J=2.54, 1.76 Hz, 1H) 7.68-7.72 (m, 2H) 7.72 (d, J=1.76 Hz, 1H) 7.85-7.90 (m, 2H) 7.96 (d, J=1.76 Hz, 1H).

reactant | 1-(4-bromophenyl)-1H-pyrazole | 1.5 mmol, 0.34 g | BrC1=CC=C(C=C1)N1N=CC=C1 | C9H7BrN2
reactant | bis(pinacolato)diborane | 2.1 mmol, 0.53 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 4.5 mmol, 446 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | sodium bicarbonate water | 20 mL | C([O-])(O)=O.[Na+].O
catalyst | Pd(dppf)Cl2 | 0.15 mmol, 110 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1H-pyrazole | 0.42 g, 100% | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1N=CC=C1)C | C15H19BN2O2
